Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
___ y/o woman wi unclear psychiatric hx, reportedly bipolar d/o 
although not on medications for this, who is transferred to 
___ ___ ___ s/p intentional tylenol 
ingestion, who says, "I'm glad I'm alive."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ y/o separated woman living alone in ___ on 
___. On ___, pt took unclear amount (told me ___ 
bottle but told others entire bottle) of Tylenol ___ mg (>250 
tabs) as well as approximately twenty 2mg  tablets of Klonopin 
at 8:30 at night then went to sleep. Woke up nauseated, vomiting 
blood, called sister who called ___, sent to ___ 
where tylenol = 7 then, thought to be about 15 hours post 
ingestion. Got activated charcoal, started on NAC 15 hrs after 
ingestion, when arrived here VSS; here restarted on ___ again. 
After she finished 16 hr protocol, now starting NAC again as 
LFTs still going up. 

At ___, pt reported she took OD of medications 
"trying to kill herself". Notes also state pt "admits to 
suicidal ideation". She also told EMS en route to ___ that she 
wanted to sign out AMA. Yesterday on floor pt was very sleepy 
and somewhat confused but today she has been alert and is now 
eating.

Patient currently acknowledges this was a suicide attempt. She 
states she is alone, with a few friends but "no one will help 
me." Stressors include doing poorly since discharge from 
___ ___ pt was given several referrals but never 
saw anyone. She is currently under legal pressure of eviction 
notice with court date later this month ___. She states this is 
because landlord has been making moves on her which she 
rejected, and that he now wants her out. Unclear why she doesn't 
move. She states no acute financial difficulties - is on 
Medicare for disability and pays rent from that money. She is a 
poor historian but acknowledging depression for last few months. 
Good appetite, no problems with concentration. She acknowledges 
chronic poor sleep and also feeling tired all day long. SHe is 
hopeless that anything will ever get better. She feels no one 
helps her or takes care of her. She denies excessive guilt but 
reports +anhedonia. She was started on provigil in ___ 
during inpatient psychiatric hospitalization and it does help 
her with being more awake in am. Says she gets manicky" but no 
clear hx of decreased need for sleep, racing thoughts, goal 
directed activity etc. She denies sx of panic or dissociation, 
hypervigilance, but describes self as very anxious, irritable, 
and having a lot of body pain and discomfort. Has never had AH, 
VH, or paranoia. She is apparently quite impulsive; she had not 
planned the suicide attempt until just before, but then went out 
and bought tylenol also taking klonopin to help  her sleep. She 
also describes dropping in on clinics without appointments, and 
a variety of other impulsive decisions.

 
Past Medical History:
Chronic back pain
s/p CCY and TAH
s/p TKR
Restless leg syndrome

PPH:
- Dx: ? bipolar d/o - pt cannot describe clear sx of mania. She
states she has never been hospitalized for mania but that she 
was
d'x'd by Dr. ___. 
- Treaters: Referred to ___ at ___.
Also referred to Family ___ in ___. Never followed up
at either, blames them for not seeing her when she was late; on
one occasion it appears she attempted to drop in and was sent
instead to an emergency room from where she was discharged.
- Hospitalizations: Discharged from ___ ___.
Cannot recall last one prior to that, possibly ___.
___ in ___ was helpful. 
- Meds: Has never been on lithium or depakote. 
- Suicide attempts: Reports 30 in past, cannot give all details
- Harm to others: denies
- Access to weapons: denies

 
Social History:
Pt has two brothers, both of whom are deceased, and one 
stepsister with whom she is still close. She grew up in 
___ and went to ___. She dropped out in ___ 
grade while she was living with her boyfriend's family. She 
states her mother was not supportive so she had to find another 
place to live. Patient reports trauma hx as raped by boyfriend's 
brother. She eventually got GED and then did some college, 
studying ___ literature. She was married and is separated. 
She had one child but gave child up for adoption. Pt worked for 
a long time in ___ as ___. She is still close 
to her stepsister who also lives in ___; pt moved there to 
be near her then got job working for ___. More 
recently she has worked as a ___ (last worked ___.
SUBSTANCE USE:
Tobacco: < pack/week
EtOH: Pt denies ever drinking daily or on regular basis. Has 
occasional beer "when I'm upset." No AA, detoxes, withdrawal sx, 
___.
MJ: Uses every few days, one or two joints, then can go for 
several weeks without using.
COcaine: tried, never used regularly
IVDU: Denies ever trying

 
Family History:
Pt says father committed suicide by drug overdose and two 
brothers completed suicides, one by jumping off building, one by 
overdose. Mother died in her ___ pt states "she burned to 
death" but on further discussion what she means is that mother 
had acute, severe drug reaction to ?tegretol with toxic 
epidermal
necrolysis.

 
Physical Exam:
VS: 100.7  ___  ___  18  98%RA
MSE upon admission: Neatly groomed woman lying on bed in NAD, 
eating. No tremor. No diaphoresis. No abnormal movements. No 
asterixis. AMbulatory w/ nl gait/ station. Speech clear without 
pressure. Mood "terrible". Affect: fair range. TP: 
perseverative, tangential without loose associations. TC: Denies 
HI, AH, VH. Not suicidal at this moment in the hospital, glad to 
be alive, but feels hopeless that things will ever change. 
Cognitive: alert, oriented to her full name, full date, full 
location except floor. Attention intact: ___ moyb. 
Calculations intact: 7 q in 1.75. Memory: reg ___, recall ___ at 
5'. Fund of knowledge good, ___ as play by ___, 
current events intact. Language; fluent, naming,
repetition, comprehension all intact. Visuospatial: Able to draw 
clock with good planning and correctly set hands to 2:10.
 
Pertinent Results:
___ 08:15AM BLOOD WBC-9.1 RBC-4.06* Hgb-12.2 Hct-37.5 
MCV-93 MCH-30.0 MCHC-32.4 RDW-13.8 Plt ___
___ 09:13AM BLOOD ___ PTT-19.3* ___
___ 04:35PM BLOOD Glucose-115* UreaN-10 Creat-0.7 Na-142 
K-4.7 Cl-106 HCO3-23 AnGap-18
___ 06:40AM BLOOD ALT-1397* AST-325* AlkPhos-66 TotBili-0.3
___ 04:35PM BLOOD ALT-1454* AST-106* AlkPhos-87 TotBili-0.2
___ 08:30AM BLOOD ALT-449* AST-34 TotBili-0.2
___ 09:13AM BLOOD ALT-273* AST-27 AlkPhos-88 TotBili-0.2
___ 04:35PM BLOOD Calcium-9.9 Phos-5.3* Mg-2.0
___ 04:35PM BLOOD TSH-1.7
___ 04:35PM BLOOD HCG-<___.) Psychiatric:
- The patient was transferred from the medicine service after 
her suicide attempt by overdose on tylenol & clonazepam. She 
signed in on a CV and was placed on 15 minute checks.
- Her outpatient cymbalta and provigil were initially held and 
the patient was started on buproprion. She continued to be 
anxious and depressed, with difficulty sleeping despite her 3mg 
of clonazepam at night. The bupropion was discontinued and the 
patient was started on a low dose of lithium at night for mood 
stabilization. This improved her sleep and she tolerated it 
well.
- The patient began to complain of re-emergence of her 
fibromyalgia pain, which had been controlled with cymbalta, so a 
low dose of cymbalta was restarted.
- At the time of discharge the patient reported improved mood, 
positive future orientation and denied suicidal ideation. 

2.) Psychosocial:
- The patient was generally under good behavioral control other 
than a few episodes of crying and yelling in response to feeling 
stressed or non-supported. She became very close with a few male 
patients and had limits set regarding personal boundary rules.
- She attended selected groups, including DBT and coping skills, 
and was visible in the milieu.
- Application for D___ services was submitted during her 
admission.
- The patient's landlord was notified that the patient was in 
the hospital and would not be able to attend the eviction court 
hearing. She was given information on housing options with 
"Homeless, Not Helpless."

3.) Medical:
- The patient's liver function tests trended down during her 
hospital stay.
- Her PCP ___ was contacted for collateral and 
confirmation of her medications.
- Oxycodone was continued for her chronic back pain and Sinemet 
continued for restless leg syndrome.
- Application for ___ was filed.

4.) Dispo:
- The patient was discharged home to the ___ with an 
appointment to see Dr. ___ following day and instructions 
on seeing a therapist and psychiatrist at the ___, 
which sees patient's without insurance. Her DMH and ___ 
status were pending at the time of discharge. She was also able 
to get the majority of her medications (with the exceptions of 
cympbalta and sinemet) from the ___ care pharmacy before she 
left the hospital.
 
Medications on Admission:
klonopin 2 mg po qday
duloxetine 60 mg qday
provigil 200 bid for daytime sleepiness
percocet for chronic back pain
Sinemet for restless leg syndrome
 
Discharge Medications:
1. Carbidopa-Levodopa 50-200 mg Tablet Sustained Release Sig: 
One (1) Tablet PO HS (at bedtime).
Disp:*30 Tablet(s)* Refills:*0*
2. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
3. Clonazepam 1 mg Tablet Sig: Three (3) Tablet PO QHS (once a 
day (at bedtime)).
Disp:*21 Tablet(s)* Refills:*0*
4. Lithium Carbonate 300 mg Capsule Sig: One (1) Capsule PO QHS 
(once a day (at bedtime)).
Disp:*30 Capsule(s)* Refills:*0*
5. Duloxetine 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
6. Modafinil 200 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: 
mood disorder not otherwise specified
history of bipolar disorder
polysubstance abuse (alcohol, marijuana, benzodiazepines, 
opiates)
Axis II: cluster B traits
Axis III: chronic back pain, fibromyalgia
Axis IV: severe psychosocial stressors: housing, financial, 
relationship, poor support system
Axis V: GAF upon discharge: ___
 
Discharge Condition:
MSE: Patient slightly disheveled in white robe, just out of bed. 
Pleasant and cooperative with good eye contact. No abnormal 
movements. Speech is normal in volume, rate and prosody. Mood is 
 "better, good."  Affect is brighter, improved range. Thought 
process is linear and thought content is without current 
SI/HI/AVH. Insight and judgment are fair.
 
Discharge Instructions:
Please take all medications as prescribed and follow up with the 
appointments listed below.
 
Followup Instructions:
___